US04407930
A. 2-Amino-5-(m-dioctadecylcarbamoylbenzenesulfonamido)resorcinol hydrochloride
To a suspension of N,N-dioctadecyl-m-(2-methyl-4-hydroxy-6-benzoxazolylsulfamoyl)benzamide benzoxazole (17.3 g, 0.02 mole) in methanol (170 ml) was added hydrogen chloride gas. The mixture warmed, and complete solution resulted. Hydrogen chloride addition was continued until saturation had been achieved. The mixture was then refluxed for four hours, then allowed to stand at ambient temperature overnight. The resulting white precipitate was collected and dried to yield 15.3 g (88.4 percent). TLC showed the product to be pure.

reactant | N,N-dioctadecyl-m-(2-methyl-4-hydroxy-6-benzoxazolylsulfamoyl)benzamide benzoxazole | 0.02 mole, 17.3 g | O1C=NC2=C1C=CC=C2.C(CCCCCCCCCCCCCCCCC)N(C(C2=CC(=CC=C2)S(NC2=CC1=C(N=C(O1)C)C(=C2)O)(=O)=O)=O)CCCCCCCCCCCCCCCCCC
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 170 ml | CO | CH4O
product | 2-Amino-5-(m-dioctadecylcarbamoylbenzenesulfonamido)resorcinol hydrochloride | Cl.NC1=C(O)C=C(C=C1O)NS(=O)(=O)C1=CC(=CC=C1)C(N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC)=O | InChI=1S/C49H85N3O5S.ClH/c1-3-5-7-9-11-13-15-17-19-21-23-25-27-29-31-33-38-52(39-34-32-30-28-26-24-22-20-18-16-14-12-10-8-6-4-2)49(55)43-36-35-37-45(40-43)58(56,57)51-44-41-46(53)48(50)47(54)42-44;/h35-37,40-42,51,53-54H,3-34,38-39,50H2,1-2H3;1H
